********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Mar 21, 2016
*ECN S16-0471, Rev. A
*File Name: SQJ974EP_PS.txt and SQJ974EP_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SQJ974EP D G S 
M1 3 GX S S NMOS W= 1479563u L= 0.30u 
M2 S GX S D PMOS W= 1479563u L= 0.33u 
R1 D 3 1.888e-02 TC=5.596e-03,1.442e-05
CGS GX S 4.993e-10 
CGD GX D 1.000e-13 
RG G GY 1m 
RTCV 100 S 1e6 TC=7.205e-04,-5.537e-06
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
DBD S D DBD 1479563u 
****************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 9.666e-06 NSUB = 1.36e+17 
+ KAPPA = 2.260e-02 NFS = 9.973e+11 
+ LD = 0 IS = 0 TPG = 1    )
******************************************************
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 7.116e+15 IS = 0 TPG = -1    )
******************************************************
.MODEL DBD D ( 
+FC = 0.1 TT = 6.967e-08 T_measured = 25 BV = 101
+RS = 7.326e-03 N = 1.142e+00 IS = 7.242e-12 
+EG = 1.235e+00 XTI = -4.636e-02 TRS1 = 2.467e-03
+CJO = 5.114e-10 VJ = 2.000e+01 M = 8.404e-01 ) 
.ENDS 
